US07728010B2
Step 3. Synthesis of 4-(4-Methylamino-3-nitro-phenoxy)-pyridine-2-carbonitrile
NaOH (1 mL, 1N aq) was added dropwise to a solution of N-[4-(2-cyano-pyridin-4-yloxy)-2-nitro-phenyl]-2,2,2-trifluoro-N-methyl-acetamide (440 mg) in ethanol (6 mL) at RT. After 40 min, the mixture was diluted with H2O (20 mL) and cooled to 0° C. Bright orange crystals were collected, washed (H2O) and air-dried 311.1 mg (94%). M/z=271 (M+1)

reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | N-[4-(2-cyano-pyridin-4-yloxy)-2-nitro-phenyl]-2,2,2-trifluoro-N-methyl-acetamide | 440 mg | C(#N)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N(C(C(F)(F)F)=O)C)[N+](=O)[O-] | C15H9F3N4O4
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | H2O | 20 mL | O | H2O
product | 4-(4-Methylamino-3-nitro-phenoxy)-pyridine-2-carbonitrile | CNC1=C(C=C(OC2=CC(=NC=C2)C#N)C=C1)[N+](=O)[O-] | C13H10N4O3
